US06313153B1
Synthesis of (E)-N-[2-(3,4-dimethoxyphenyl)-2-(methylthio)ethyl]-3-(3-pyridyl)-2-propenoic acid amide
To a solution of the crude oily 2-(3,4-dimethoxy-phenyl) -2-(methylthio)ethylamine (0.96 g) and trans-3-(3-pyridyl) acrylic acid (0.63 g, 4.2 mmol) in dimethylformamide (10 ml), diethylphosphoric cyanide (0.69 ml) and triethylamine (1.17 ml) were sequentially added under ice-cooling and stirred for 10 minutes under ice-cooling. Aqueous sodium bicarbonate solution was added to the reaction mixture and extracted with ethyl acetate. The organic layers were combined, washed with water and aqueous saturated sodium chloride solution and dried over magnesium sulfate. The solvent was distilled out under reduced pressure and the residue was purified by silica gel column chromatography (hexane: chloroform:ethanol=8:2:1) to yield the titled compound (788 mg, 47%).

reactant | 2-(3,4-dimethoxy-phenyl) -2-(methylthio)ethylamine | 0.96 g | COC=1C=C(C=CC1OC)C(CN)SC | C11H17NO2S
reactant | trans-3-(3-pyridyl) acrylic acid | 4.2 mmol, 0.63 g | N1=CC(=CC=C1)/C=C/C(=O)O | C8H7NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.17 ml | C(C)N(CC)CC | C6H15N
product | (E)-N-[2-(3,4-dimethoxyphenyl)-2-(methylthio)ethyl]-3-(3-pyridyl)-2-propenoic acid amide | 788 mg, 47% | COC=1C=C(C=CC1OC)C(CNC(\C=C\C=1C=NC=CC1)=O)SC | C19H22N2O3S
